US04443459
2.42 g of 5-(3,4-dibromobutyl)picolinic acid, 2.15 g of dl-α-tocopherol and 4.0 ml of triethylamine were dissolved in 15 ml of methylene chloride, and with stirring under ice cooling, a solution of 1.0 ml of phosphorus oxychloride in 5 ml of methylene chloride was added dropwise. The reaction was performed at this temperature for 3 hours. The reaction mixture was washed with 2 N hydrochloric acid, and then with water, and dried. Then, methylene chloride was distilled off. The residue was chromatographed on a column of silica gel using benzene/ethyl acetate (4:1) as an eluent to give 3.03 g of dl-α-tocopheryl 5-(3,4-dibromobutyl)picolinate as a slightly yellow oil.

reactant | 5-(3,4-dibromobutyl)picolinic acid | 2.42 g | BrC(CCC=1C=CC(=NC1)C(=O)O)CBr | C10H11Br2NO2
reactant | dl-α-tocopherol | 2.15 g | CC1=C(C(=C2CCC(OC2=C1C)(C)CCCC(C)CCCC(C)CCCC(C)C)C)O | C29H50O2
reactant | triethylamine | 4.0 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorus oxychloride | 1.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | dl-α-tocopheryl 5-(3,4-dibromobutyl)picolinate | 3.03 g | CC1=C2C(=C(C(=C1C)OC(=O)C3=NC=C(C=C3)CCC(CBr)Br)C)CCC(O2)(C)CCCC(C)CCCC(C)CCCC(C)C | C39H59Br2NO3
